US20010027196A1
6-Furan-2-yl-5-iodo-N4-(2-phenylamino-ethyl)-pyrimidine-2,4-diamine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine and N-phenylethylenediamine in dioxane. ES-MS m/e (%): 422 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Furan-2-yl-5-iodo-N4-(2-phenylamino-ethyl)-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCCNC1=CC=CC=C1)I | C16H16IN5O
